US08871796B2
A mixture of tert-butyl [5-(2-ethyl-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)-2,3-dihydro-1H-inden-2-yl]carbamate (28 mg, 0.082 mmol) in DMSO (1 mL) was treated with fluoro-4-(trifluoromethyl)benzene (100 mg, 0.609 mmol) and K2CO3 (20 mg, 0.15 mmol). The suspension was stirred for 40 min at 140° C. until no SM remained. Significant Boc thermolysis was observed under these conditions. The reaction was cooled, diluted with DCM, extracted with 1 N NaOH, water, dried (Na2SO4), concentrated. The residue was dissolved in 0.9 mL of DCM and 0.1 mL of TFA, then stirred for 1 hour, diluted with DCM, extracted with 1 N NaOH, water, dried (Na2SO4), and finally concentrated to give 5-{1-ethyl-3-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-5-yl}-2,3-dihydro-1H-inden-2-amine (18 mg, 57%): MS cal'd for C21H21F3N3O [M+H]+388.2. found 388.1.

reactant | tert-butyl [5-(2-ethyl-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)-2,3-dihydro-1H-inden-2-yl]carbamate | 0.082 mmol, 28 mg | C(C)N1NC(C=C1C=1C=C2CC(CC2=CC1)NC(OC(C)(C)C)=O)=O | C19H25N3O3
reactant | fluoro-4-(trifluoromethyl)benzene | 0.609 mmol, 100 mg | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | K2CO3 | 0.15 mmol, 20 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-{1-ethyl-3-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-5-yl}-2,3-dihydro-1H-inden-2-amine | 18 mg, 57% | C(C)N1N=C(C=C1C=1C=C2CC(CC2=CC1)N)OC1=CC=C(C=C1)C(F)(F)F | C21H20F3N3O
